US07157465B2
Potassium carbonate (2.85 g, 20.6 mmol) and 2-chloro-5-chloromethylpyridine (3.33 g, 20.6 mmol) were added to the DMF solution (125 ml) of 2-butoxyadenine (2.60 g, 12.5 mmol) obtained in Reference Example 1. The resultant was stirred while heating at 80° C. for 2.5 hours. The reaction solution was concentrated under reduced pressure, water (100 ml) was added thereto, and the resultant was neutralized with 1N hydrochloric acid. The precipitated solid was collected by filtration. The resulting solid was dissolved in methylene chloride (100 ml), hexane (150 ml) was added under ice cooling, and the precipitated crystal was collected by filtration. Thus, 2-butoxy-9-(6-chloro-3-pyridylmethyl)adenine was obtained (yield: 3.12 g). Bromine (1.92 ml, 37.5 mmol) was added to an acetic acid suspension (186 ml) comprising sodium acetate (3.05 g, 37.2 mmol) and 2-butoxy-9-(6-chloro-3-pyridylmethyl)adenine (3.1 g, 9.31 mmol) at room temperature, and the resultant was allowed to react for 4 hours. The reaction solution was removed by distillation under reduced pressure, water (200 ml) was added to the residue, and the resultant was neutralized with 5N sodium hydroxide under ice cooling. The precipitated crystal was collected by filtration, and crude crystal was recrystalized with the aid of methanol. The resultant was dried under reduced pressure at 40° C. for 15 hours. Thus, 2.38 g of the title compound was obtained as a white powdery crystal (yield: 62%).

reactant | Potassium carbonate | 20.6 mmol, 2.85 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-chloromethylpyridine | 20.6 mmol, 3.33 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-butoxyadenine | 12.5 mmol, 2.60 g | C(CCC)OC1=NC(=C2NC=NC2=N1)N | C9H13N5O
solvent | DMF | 125 ml | CN(C)C=O | C3H7NO
product | 2-butoxy-9-(6-chloro-3-pyridylmethyl)adenine | C(CCC)OC1=NC(=C2N=CN(C2=N1)CC=1C=NC(=CC1)Cl)N | C15H17ClN6O
